US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-5-(2-chloro-3,6-difluorophenyl)-3-methoxy-4-methyl-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (10 eq in water), diazald (5 eq) ethylene glycol/Et2O (3/1 v/v), 1-(1H-benzo[d]imidazol-6-yl)-5-(2-chloro-3,6-difluorophenyl)-3-hydroxy-4-phenyl-1H-pyrrol-2(5H)-one (0.103 g, 0.25 mmol, 1 eq) and MeOH/H2O (90/10 v/v); yield: 0.013 g (13.3%); MS m/z: 390.2 [M+H]+; 1H-NMR: (400 MHz, DMSO-D6) δ: 1.78, 1.81 (2s, 3H), 3.94, 3.95 (2s, 3H), 6.34-6.35 (m, 1H), 7.11-7.17 (m, 1H), 7.25-7.29 (m, 1H), 7.35-7.40 (m, 1H), 7.52-7.54 (m, 1H), 7.67 (s, 1H), 8.35 (s, 1H); HPLC (METHOD [A]): rt 12.59 min (95%)

reactant | KOH | 10 eq | [OH-].[K+]
reactant | diazald | 5 eq | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | 1-(1H-benzo[d]imidazol-6-yl)-5-(2-chloro-3,6-difluorophenyl)-3-hydroxy-4-phenyl-1H-pyrrol-2(5H)-one | 0.25 mmol, 0.103 g, 1 eq | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=C(C(=CC=C2F)F)Cl)C2=CC=CC=C2)O)=O | C23H14ClF2N3O2
solvent | MeOH H2O | CO.O
product | 1-(1H-Benzo[d]imidazol-6-yl)-5-(2-chloro-3,6-difluorophenyl)-3-methoxy-4-methyl-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=C(C(=CC=C2F)F)Cl)C)OC)=O | C19H14ClF2N3O2
